US04727180
To a suspension of 13.5 g (0.55 g atoms) of sublimed magnesium chips in 25 ml of anhydrous tetrahydrofuran in a reaction flask fitted with a water-cooled condenser are added 10 g (0.05 mole) of 3-bromo-1-methoxybenzene and 0.5 ml of 1,2-dibromoethane. The resulting reaction mixture is stirred and heated gently until a reaction is initiated. To the stirred reaction mixture is added dropwise a solution of 90 g (0.48 mole) of 3-bromo-1-methoxybenzene in 250 ml of anhydrous tetrahydrofuran at such a rate that gentle reflux is maintained. The reaction mixture is stirred for an additional two hours. The resulting solution is then cooled to 0° and the reaction flask is fitted with a jacketed dropping funnel topped by a dry ice condenser. The water condenser is replaced by an additional dry ice condenser. To the jacketed dropping funnel are added 85 g (50 ml) (0.55 mole) of condensed hexafluoroacetone. The condensed hexafluoroacetone is added dropwise to the stirred solution which is cooled to 0° to -10° with an ice-acetone bath. When the addition of the hexafluoroacetone is complete, the resulting solution is allowed to warm to 20°-25° and stirring is continued for an additional 18 hours. The solution is cooled to 0° and treated with 6N hydrochloric acid to obtain an acidic solution to which is added 1-liter of ether. The resulting ether layer is washed with water, washed with a 5% sodium bicarbonate solution, dried with anhydrous magnesium sulfate, filtered and evaporated at reduced pressure to yield a residual solid which is recrystallized from chlorobutane to give 78 g of 1-methoxy-3-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzene.

reactant | magnesium | 13.5 g | [Mg] | Mg
reactant | 3-bromo-1-methoxybenzene | 0.05 mole, 10 g | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | 1,2-dibromoethane | 0.5 ml | BrCCBr | C2H4Br2
reactant | 3-bromo-1-methoxybenzene | 0.48 mole, 90 g | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | hexafluoroacetone | FC(C(=O)C(F)(F)F)(F)F | C3F6O
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | ether | 1-liter | CCOCC | C4H10O
solvent | water | O | H2O
product | 1-methoxy-3-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzene | 78 g | COC1=CC(=CC=C1)C(C(F)(F)F)(C(F)(F)F)O | C10H8F6O2
